US04421686
To an ice-cooled mixture of 7.6 g of 3-amino-4-phenylsulfonyl-2-azetidinone (mixture of cis and trans isomers), 5.1 g of sodium bicarbonate 100 ml of dichloromethane, and 50 ml of water was added dropwise with vigorous stirring 4.0 ml phenoxyacetyl chloride. After 90 minutes the resulting solid was removed by filtration and washed with water and dichloromethane. The solid was dissolved in tetrahydrofuran and precipitated with toluene to give 3.85 g of (3R-trans)-3-phenoxyacetylamino-4-phenylsulfonyl-2-azetidinone, melting point 192°-193° C., dec.

reactant | 3-amino-4-phenylsulfonyl-2-azetidinone | 7.6 g | NC1C(NC1S(=O)(=O)C1=CC=CC=C1)=O | C9H10N2O3S
reactant | sodium bicarbonate | 100 ml, 5.1 g | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | phenoxyacetyl chloride | 4.0 ml | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | water | 50 ml | O | H2O
product | (3R-trans)-3-phenoxyacetylamino-4-phenylsulfonyl-2-azetidinone | 3.85 g | O(C1=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@H]1S(=O)(=O)C1=CC=CC=C1)=O | C17H16N2O5S
